US06544985B2
(RS)-[5-(Isobutyl-methyl-amino)-4-methyl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(isobutyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester (Example J38) (1.0 g, 3.25 mmol) and (RS)-[3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester (Example K24) (1.31 g, 3.25 mmol) according to the general procedure M. Obtained as a light yellow foam (970 mg, 47%).

reactant | [2-amino-5-(isobutyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester | 3.25 mmol, 1.0 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C)N)=O | C17H29N3O2
reactant | 3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionic acid tert-butyl ester | 3.25 mmol, 1.31 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CN=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[5-(Isobutyl-methyl-amino)-4-methyl-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,4]triazol-1-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C)NC(CC(C1=CC(=CC=C1)N1N=CN=C1COC1OCCCC1)=O)=O)=O | C34H46N6O6
